US07629342B2
To a round bottom flask was added 6-chloro-4,5-bis(4-chlorophenyl)pyridazin-3-ol (1.5 gm, 4.26 mmol), DMF (15 ml) and K2CO3 (1.17 gm, 8.52 mmol). The reaction was stirred at rt for 30 min. After this time, 4-trifluoromethylbenzyl bromide (1.2 gm, 5.19 mmol) was added to the reaction and the reaction was stirred at rt for an additional 8 hrs. The reaction mixture was then diluted with water (40 ml). The reaction mixture was poured into a separatory funnel and extracted with EtOAc (2×50 ml). The combined organic layers were washed with water (4×30 ml) and saturated aqueous NaCl (30 ml). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give product 6-chloro-4,5-bis(4-chlorophenyl)-2-(4-(trifluoromethyl)benzyl)pyridazin-3(2H)-one as off white solid (1.5 gm, 65.1% yield).

reactant | 6-chloro-4,5-bis(4-chlorophenyl)pyridazin-3-ol | 4.26 mmol, 1.5 gm | ClC1=C(C(=C(N=N1)O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H9Cl3N2O
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | 8.52 mmol, 1.17 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-trifluoromethylbenzyl bromide | 5.19 mmol, 1.2 gm | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | water | 40 ml | O | H2O
product | 6-chloro-4,5-bis(4-chlorophenyl)-2-(4-(trifluoromethyl)benzyl)pyridazin-3(2H)-one | ClC=1C(=C(C(N(N1)CC1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C24H14Cl3F3N2O
